*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-G153  
*  
* Parameters derived from information available in data sheet.  
*  
*                 e-anode-1 
*                 |  d-anode-1 
*                 |  |  c-anode-1 
*                 |  |  |  dp-anode-1 
*                 |  |  |  |  e-anode-2 
*                 |  |  |  |  |  d-anode-2 
*                 |  |  |  |  |  |  g-anode-2 
*                 |  |  |  |  |  |  |  c-anode-2 
*                 |  |  |  |  |  |  |  |  dp-anode-2 
*                 |  |  |  |  |  |  |  |  |  b-anode-2 
*                 |  |  |  |  |  |  |  |  |  |  a-anode-2 
*                 |  |  |  |  |  |  |  |  |  |  |  f-anode-2 
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-2 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-1 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  b-anode-1 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  a-anode-1 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  g-anode-1 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  f-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_G153 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  16 14 dHDSP_G153
DB1  15 14 dHDSP_G153
DC1   3 14 dHDSP_G153
DD1   2 14 dHDSP_G153
DE1   1 14 dHDSP_G153
DF1  18 14 dHDSP_G153
DG1  17 14 dHDSP_G153
DDP1  4 14 dHDSP_G153

DA2  11 13 dHDSP_G153
DB2  10 13 dHDSP_G153
DC2   8 13 dHDSP_G153
DD2   6 13 dHDSP_G153
DE2   5 13 dHDSP_G153
DF2  12 13 dHDSP_G153
DG2   7 13 dHDSP_G153
DDP2  9 13 dHDSP_G153

.MODEL dHDSP_G153 D
+ (  
+    IS  = 1.31055154E-15 
+     N  = 2.20660855 
+    RS  = 1.60736539 
+    BV  = 14.25
+   IBV  = 100u
+ )  

.ENDS HDSP_G153